US07253286B2
4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-trifluoromethylphenylamine
After dissolving 6-carbamoyl-4-(3-trifluoromethyl-4-nitrophenoxy)-7-methoxyquinoline (0.60 g) in tetrahydrofuran (10 ml) and methanol (10 ml), the solution was subjected to catalytic reduction with palladium-carbon (600 mg) for 10 hours under a hydrogen atmosphere to obtain the title compound (0.60 g).

reactant | 6-carbamoyl-4-(3-trifluoromethyl-4-nitrophenoxy)-7-methoxyquinoline | 0.60 g | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C18H12F3N3O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | 4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2-trifluoromethylphenylamine | 0.60 g | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)N)C(F)(F)F | C18H14F3N3O3
